US07452901B2
Preparation of 2-[(2-{4-[(2,4-diaminopteridin-6-ylmethyl)methylamino]benzoylamino}ethyl)-phenoxyphosphinoyloxy]propionic acid ethyl ester [diastereomeric mixture at phosphorus]
To a solution of 4-[(2,4-diamino-pteridin-6-ylmethyl)-methyl-amino]-benzoic acid hemihydrochloride dihydrate (60.0 mg, 158.3 μmol) in DMF (2.5 mL) were added diethyl cyanophosphonate (31.2 μL, 205.7 μmol) and DIEA (81.8 μL, 474.9 μmol). The solution was stirred at ambient temperature for 3.5 hours, when a solution of (S)-2-[(2-aminoethyl)phenoxyphosphinoyloxy]propionic acid ethyl ester mono acetic acid salt (57.1 mg, 158.3 μmol; mixture of diastereomers at phosphorus) in DMF (200 μL) was added. The solution was stirred for 1.5 additional hours, whereupon complete consumption of the starting materials was observed. The solvent was removed in vacuo and the crude material was purified by silica gel chromatography using MeOH—CH2Cl2 (10-30%). A small amount of the product (24.8 mg) was repurified by RP HPLC on C18 column using H2O/acetonitrile (2-95%) to provide 15.8 mg (65%) of the pure product. 1H NMR (300 MHz, DMSO-d6) δ 1.17-1.27 (m, 3H), 1.32 (d, 2H, J=7.5 Hz), 1.42 (d, 1H, J=7.5 Hz) 2.27 (m, 2H), 3.19 (s, 3H), 3.53 (m, 2H), 4.08-4.14 (m, 2H), 4.77 (s, 2H), 4.98 (m, 1H), 6.72 (br s, 1H), 6.81 (d, 2H, J=9 Hz), 7.21 (m, 3H), 7.36 (m, 2H), 7.66 (d, 2H, J=9 Hz), 8.26 (br s, 1H), 8.56 (s, 1H); 31P (121.4 MHz, DMSO-d6) δ 26.6, 27.4. MS (m/z) 609.2 [M+H]+.

reactant | 4-[(2,4-diamino-pteridin-6-ylmethyl)-methyl-amino]-benzoic acid hemihydrochloride dihydrate | 158.3 μmol, 60.0 mg | O.O.Cl.NC1=NC2=NC=C(N=C2C(=N1)N)CN(C1=CC=C(C(=O)O)C=C1)C.NC1=NC2=NC=C(N=C2C(=N1)N)CN(C)C1=CC=C(C(=O)O)C=C1.O.O
reactant | diethyl cyanophosphonate | 205.7 μmol, 31.2 μL | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | DIEA | 474.9 μmol, 81.8 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-2-[(2-aminoethyl)phenoxyphosphinoyloxy]propionic acid ethyl ester mono acetic acid salt | 158.3 μmol, 57.1 mg | C(C)(=O)O.C(C)OC([C@H](C)OP(=O)(OC1=CC=CC=C1)CCN)=O
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 200 μL | CN(C)C=O | C3H7NO
product | 2-[(2-{4-[(2,4-diaminopteridin-6-ylmethyl)methylamino]benzoylamino}ethyl)-phenoxyphosphinoyloxy]propionic acid ethyl ester | 15.8 mg, 65% | C(C)OC(C(C)OP(=O)(OC1=CC=CC=C1)CCNC(C1=CC=C(C=C1)N(C)CC=1N=C2C(=NC(=NC2=NC1)N)N)=O)=O | C28H33N8O6P
